US04619931
To 75 parts of a hydrobromic acid solution 48% in water was added a small amount of sodium hydrogen sulfite. Then there were added 1.7 parts of N-butyl-N-(3-hydroxypropyl)-N'-[4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl]thiourea. The whole was stirred and refluxed for 3 hours. The reaction mixture was evaporated. The residue was dissolved in a mixture of methanol and water. The solution was neutralized with a sodium hydrogen carbonate solution. The product was extracted with dichloromethane. The extract was washed with water, dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (98:2 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from 2-propanol. The product was filtered off and dried, yielding 0.6 parts (38%) of 4-[4-[4-[(3-butyltetrahydro-1,3-thiazin-2-ylidene)amino]phenyl]-1-piperazinyl]phenol; mp. 143.0° C. (45).

reactant | hydrobromic acid | Br | BrH
reactant | sodium hydrogen sulfite | S(=O)(O)[O-].[Na+]
reactant | N-butyl-N-(3-hydroxypropyl)-N'-[4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl]thiourea | C(CCC)N(C(=S)NC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)OC)CCCO | C25H36N4O2S
solvent | water | O | H2O
product | 4-[4-[4-[(3-butyltetrahydro-1,3-thiazin-2-ylidene)amino]phenyl]-1-piperazinyl]phenol | 38% | C(CCC)N1C(SCCC1)=NC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)O | C24H32N4OS
